US05719141
e) 3-[N-Tert-butoxycarbonyl-4(S)-[1-(2-benzyloxyethyl)cyclopropylmethyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2-(R)-methyl-propionic acid (N-butyl)amide
The 5(S)-tert-butoxycarbonylamino-6-[1-(2-benzyloxyethyl)cyclopropyl]-4(S)-hydroxy-2(R)-methyl-hexanoic acid (N-butyl)amide thus obtained is reacted with dimethoxypropane and p-toluenesulfonic acid hydrate in a manner analogous to that described in Example 1 d) and the product is purified by means of FC over 80 g of silica gel (mobile phase C). This gives the title compound as the pure diastereomer: Rf (A)=0.58,

reactant | 5(S)-tert-butoxycarbonylamino-6-[1-(2-benzyloxyethyl)cyclopropyl]-4(S)-hydroxy-2(R)-methyl-hexanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC1(CC1)CCOCC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)C)=O | C28H46N2O5
reactant | dimethoxypropane | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-[N-Tert-butoxycarbonyl-4(S)-[1-(2-benzyloxyethyl)cyclopropylmethyl]-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2-(R)-methyl-propionic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1(CC1)CCOCC1=CC=CC=C1)C)=O | C31H50N2O5
